US04786633
To 4.8 ml of water are added 341 mg of 7β{(Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-oxopyrrolidin-3-yl)oxyimino]acetamido}-3-acetoxymethyl-3-cephem-4-carboxylic acid, 125 mg of 1-methyl-2-thiopyridone and 900 mg of sodium iodide. The mixture is adjusted to a pH of 6.63 with an aqueous solution of sodium hydrogencarbonate. The mixture is stirred in an argon atmosphere at 65° C. for 3.5 hours. The reaction mixture is concentrated under reduced pressure. The concentrate is introduced into a column packed with HP-20 and is eluted with 20% and 25% methanol solutions. The fractions containing the contemplated compound are collected and concentrated. The residue is lyophilized, giving 128 mg of 7β-{(Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-oxopyrrolidin-3-yl)oxyimino]acetamido}-3-(1-methyl-2-pyridinio)thiomethyl-3-cephem-4-carboxylate as a pale brown compound.

reactant | 7β{(Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-oxopyrrolidin-3-yl)oxyimino]acetamido}-3-acetoxymethyl-3-cephem-4-carboxylic acid | 341 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=N/O[C@@H]1C(NCC1)=O | C19H20N6O8S2
reactant | 1-methyl-2-thiopyridone | 125 mg | CN1C=CC=CC1=S | C6H7NS
reactant | sodium iodide | 900 mg | [I-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 4.8 ml | O | H2O
product | 7β-{(Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-oxopyrrolidin-3-yl)oxyimino]acetamido}-3-(1-methyl-2-pyridinio)thiomethyl-3-cephem-4-carboxylate | 128 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CS[CH2+]2N(C=CC=C2)C)C(=O)[O-])C1=O)=N/O[C@@H]1C(NCC1)=O | InChI=1S/C23H26N7O6S3/c1-29-7-3-2-4-14(29)37-8-11-9-38-21-16(20(33)30(21)17(11)22(34)35)27-19(32)15(12-10-39-23(24)26-12)28-36-13-5-6-25-18(13)31/h2-4,7,10,13,16,21H,5-6,8-9,14H2,1H3,(H2,24,26)(H,25,31)(H,27,32)(H,34,35)/q+1/p-1/b28-15-/t13-,16+,21+/m0/s1
